US07423035B2
b) 8-hydroxy-5-{1-hydroxy-2-[1-(4-trifluoromethyl-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one
322 mg (0.63 mmol) 8-benzyloxy-5-{1-hydroxy-2-[1-(4-trifluoromethyl-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one are dissolved in 10 mL methanol and hydrogenated in the presence of palladium on charcoal at 3 bar. The precipitated product is dissolved by adding methanol. The catalyst is separated off and the filtrate is evaporated down. The precipitated solid is filtered off and suspended in diethyl ether for further purification. Yield: 161 mg (61%); mass spectroscopy: [M+H]+=419.

reactant | 8-benzyloxy-5-{1-hydroxy-2-[1-(4-trifluoromethyl-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one | 0.63 mmol, 322 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)C(CNC1(CC1)CC1=CC=C(C=C1)C(F)(F)F)O | C29H27F3N2O3
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 8-hydroxy-5-{1-hydroxy-2-[1-(4-trifluoromethyl-benzyl)-cyclopropylamino]-ethyl}-1H-quinolin-2-one | OC=1C=CC(=C2C=CC(NC12)=O)C(CNC1(CC1)CC1=CC=C(C=C1)C(F)(F)F)O | C22H21F3N2O3
